Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel
 
Attending: ___.
 
Chief Complaint:
Generalized weakness

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with Stage IIc ovarian cancer on doxil/carboplatin C6 (last 
dose ___, depression, IBS, chronic headaches, who presents 
with 1 day of fatigue and weakness. 
She mentions that she has whole body pain that is chronic. She 
also has some low back pain that has been present for about ___ 
days. And today she had burning when she urinated that was very 
uncomfortable. 

She was noted to be tachycardic on arrival of EMS. In the ED she 
also complained of palpitations, and decreased po intake over 
the past week. 

Patient was recently admitted from ___ with fatigue and 
malaise.  She was admitted with concerns for thrombocytopenia 
and generalized fatigue/malaise. Please see discharge summary 
dated ___ for full summary of her hospitalization. 

In the ED, initial VS:  98.9 100 127/76 18 100%. UA showed 13 
WBC, and she was treated with ciprofloxacin 400mg IV x1. Blood 
cultures were obtained.  D-dimer was obtained, which was 2396. 
CTA chest was pursued and negative. 

Currently she would like some pain control for her back pain and 
also for her ongoing dysuria. 

Review of Systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies blurry vision, diplopia, loss of vision, 
photophobia. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies chest pain or tightness, palpitations, lower 
extremity edema. Denies cough, shortness of breath, or wheezes. 
Denies nausea, vomiting, diarrhea, constipation, abdominal pain, 
melena, hematemesis, hematochezia. Denies stool or urine 
incontinence. Denies arthralgias or myalgias. Denies rashes or 
skin breakdown. No numbness/tingling in extremities. All other 
systems negative.  
 

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
___, pt presented at ___ with acute RLQ 
abdominal pain. CT there was notable for 6.3 cm right ovarian 
cyst.  
___, she had a right ovarian laparoscopic cystectomy, 6-7 cm 

cyst removed with intra-operative rupture, by report there was 
no ovarian surface involvement by tumor. ___ path review of it 

showed high grade serous carcinoma. 
___, pt was taken to OR by Dr. ___ a laparoscopy 
converted to laparotomy with TAH/BSO, pelvic tumor resection, 
total pelvic lymphadenectomy, para-aortic LN resection, 
infracolic omemtectomy, peritoneal biopsies was performed. 
Post-op she was noted to have tachycardia to 130 bpm with normal 

blood pressures and oxygen saturation. CTA chest demonstrated no 

evidence of cardiopulmonary process. Her symptoms eventually 
resolved and did not recur.  She also had a fever, but 
infectious w/u was negative and she defervesced spontaneously. 
She was discharged on ___.  Path showed ovarian serous 
carcinoma, no positive LNs, right pelvic sidewall positive for 
carcinoma, grade 3, with positive washings, thus staged as IIc. 
___, poc placed
___, C1D1 ___ initiated, but pt had a reaction 14 
minutes into the Taxol infusion and was sent to ED for chest 
pain that did not resolve in the clinic 
___, C1D1 ___
___ Pt admitted to ___ for weakness
___ Pt in ED for observation (weakness)
___ Pt in ED for observation (chest pain)
___ - Pt in ED for observation (weakness)
___- C6 doxil/carboplatin 

PAST MEDICAL HISTORY:  
Connective tissue disorder  
Raynaud's syndrome  
Depression  
Irritable bowel syndrom  
Osteoporosis  
Headache  
Uterine fibroids  
s/p wrist surgery  

 
Social History:
___
Family History:
Paternal great aunt had postmenopausal breast cancer. Maternal  
great uncle had colon cancer. Mother and grandfather have high  
blood pressure. Mother has DM, and father has psoriasis. She  
otherwise denies a family history of ovarian, uterine, cervical  

or vaginal cancer  

 
Physical Exam:
VITALS: T 98.0 BP 134/90 HR 80 RR 16 100% on RA
General: Well appearing, NAD
HEENT:   NCAT. PERRL. Oropharynx clear
Neck:   Supple. No cervical lymphadenopathy
CV:  RRR. No murmurs
Lungs: CTAB. No wheezes or crackles
Abdomen: Soft, NT, ND. No masses. No CVA tenderness. No 
suprapubic tenderness. 
Back: Pain over L4-L5 area, just lateral to midline. 
Ext:   WWP. No edema
Neuro:A+O x3. CN ___ intact and symmetric. No focal neuro 
deficits
Access: Port -site appears clean 

 
Pertinent Results:
WBC 3.3 (71.4%N, 18.4%L, 9.7%M)
Hb 8.5
HCT 25.1
Plt 65

INR 1.0

Cr 0.7

D-dimer 2396

UA: 13 WBC, mod ___, neg nitrites, no epis

___ Blood cultures x2 pending

IMAGING:
___ CTA chest:  No acute intrathoracic process. 
___ CXR: No acute cardiopulmonary process.

 
Brief Hospital Course:
___ with Stage IIc ovarian cancer on doxil/carboplatin C6 (last 
dose ___, depression, IBS, chronic headaches, who presents 
with 1 day of fatigue and weakness. Given that she complained of 
dysuria, and has a +UA, it is reasonable to treat with po 
Ciprofloxacin. Her back pain is clearly not CVA tenderness on 
exam. This might explain her tachycardia and left shift on WBC. 
Would replete K and Mg in case this is the cause of generalized 
weakness. Pt discharged to complete ciprofloxacin 250mg po bid 
for 3 days. Urine culture pending at discharge. Given
pyridium for dysuria.

Low back pain: This seems to be located over paraspinous 
muscles. Patient afebrile, no tenderness to palpation. No 
radiating symptoms down her legs. No relief with tylenol or 
ibuprofen, given tramadol.

Depression: Cont amitryptiline and duloxetine, gabapentin
 

 
Medications on Admission:
1. Amitriptyline 10 mg PO HS 
2. Bisacodyl 10 mg PO/PR DAILY 
3. Duloxetine 90 mg PO DAILY 
4. Gabapentin 300 mg PO BID 
5. Hydrocortisone Cream 0.5% 1 Appl TP TID:PRN skin rash 
6. Loratadine 10 mg PO DAILY 
7. Lorazepam 0.5 mg PO Q8H:PRN nausea/vomiting 
8. Multivitamins 1 TAB PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. Polyethylene Glycol 17 g PO DAILY 
11. Senna 1 TAB PO BID:PRN constipation 
12. Vitamin D ___ UNIT PO DAILY Vitamin D deficiency 
13. Acetaminophen 325-650 mg PO Q6H:PRN pain 
14. Nystatin 500,000 UNIT PO Q8H
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain, fever 
2. Amitriptyline 10 mg PO HS 
3. Bisacodyl 10 mg PO DAILY 
4. Duloxetine 90 mg PO DAILY 
5. Gabapentin 300 mg PO BID 
6. Loratadine 10 mg PO DAILY 
7. Lorazepam 0.5 mg PO Q8H:PRN nausea, vomiting 
8. Multivitamins 1 TAB PO DAILY 
9. Nystatin 500,000 UNIT PO Q8H 
10. Omeprazole 40 mg PO DAILY 
11. Polyethylene Glycol 17 g PO DAILY 
12. Senna 1 TAB PO BID:PRN constipation 
13. Vitamin D ___ UNIT PO DAILY 
14. Ciprofloxacin HCl 250 mg PO Q12H Duration: 3 Days 
RX *ciprofloxacin 250 mg 1 tablet(s) by mouth twice a day Disp 
#*4 Tablet Refills:*0
15. Phenazopyridine 100 mg PO TID:PRN dysuria Duration: 3 Days 
16. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*30 Tablet Refills:*0
17. Ibuprofen 400 mg PO Q8H:PRN low back pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Urinary Tract Infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted due to a urinary infection. There is no sign 
of systemtic infection. You should complete 3 days of 
antibiotics.
 
Followup Instructions:
___